US09381191B2
In a flask placed under an argon flow, 2.1 g (5.21 mmol) of 2-((3-iodoimidazo[1,2-a]pyridin-2-yl)methyl)isoindoline-1,3-dione were solubilised in 11 ml of dimethylformamide with magnetic stirring. To this solution, were added: 0.008 g (0.04 mmol) of copper iodide, 0.921 ml (6.25 mmol) of 3-trifluoromethylphenyl acetylene and 10.89 ml (78 mmol) of triethylamine. The reaction medium was degassed with argon for 10 min before adding 0.477 g (0.521 mmol) of Pd2(dba)3. The mixture was stirred at r.t. for 16 h before being filtered on a silica gel cartridge which was then rinsed with 300 ml of ethyl acetate. The organic phase was washed with 3×150 ml of a saturated NaCl aqueous solution, and then dried on Na2SO4 which was then removed by filtration. The obtained filtrate was concentrated in vacuo. The crude residue was purified by flash chromatography on a silica gel cartridge (eluent: heptane/ethyl acetate gradient, from 50% to 40% of heptane, v/v). 1.41 g (yield=59%) of 2-((3-((3-(trifluoromethyl)phenyl)ethynyl)imidazo[1,2-a]pyridin-2-yl)methyl) isoindoline-1,3-dione were obtained as a brown solid. LC-MS: m/z=446 (MH+); UV purity at 254 nm=97%. 1H NMR (300 MHz, DMSO) δ 8.67 (d, J=6.7 Hz, 1H), 7.91 (dd, J=5.6, 3.0 Hz, 2H), 7.82 (dd, J=5.5, 3.1 Hz, 2H), 7.69 (dd, J=12.5, 8.5 Hz, 2H), 7.63-7.52 (m, 2H), 7.52-7.42 (m, 2H), 7.13 (td, J=6.8, 1.1 Hz, 1H), 5.09 (s, 2H).

reactant | 2-((3-iodoimidazo[1,2-a]pyridin-2-yl)methyl)isoindoline-1,3-dione | 5.21 mmol, 2.1 g | IC1=C(N=C2N1C=CC=C2)CN2C(C1=CC=CC=C1C2=O)=O | C16H10IN3O2
reactant | 3-trifluoromethylphenyl acetylene | 6.25 mmol, 0.921 ml | FC(C=1C=C(C=CC1)C#C)(F)F | C9H5F3
reactant | triethylamine | 78 mmol, 10.89 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 11 ml | CN(C=O)C | C3H7NO
catalyst | copper iodide | 0.04 mmol, 0.008 g | [Cu](I)I
catalyst | Pd2(dba)3 | 0.521 mmol, 0.477 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-((3-((3-(trifluoromethyl)phenyl)ethynyl)imidazo[1,2-a]pyridin-2-yl)methyl) isoindoline-1,3-dione | 1.41 g, yield=59% | FC(C=1C=C(C=CC1)C#CC1=C(N=C2N1C=CC=C2)CN2C(C1=CC=CC=C1C2=O)=O)(F)F | C25H14F3N3O2
